US04315000
A mixture of 7.5 g of 6-amino-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]-pyridin-4-one, 1.5 g of 20% palladium on carbon, 6.4 ml of acetic acid, and 150 ml of methoxy-ethanol is hydrogenated at 50° C. and ca 3 atmospheres until uptake of hydrogen ceases. The mixture is filtered, evaporated in vacuo, dissolved in water, and treated with 50 ml of wet IR-45 ion exchange resin. The filtrate is concentrated to dryness in vacuo and recrystallized from ethanol-water to provide 3.2 g of 6-amino-1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one.

reactant | 6-amino-1-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]-pyridin-4-one | 7.5 g | NC1=CC2=C(C(N1)=O)N=CN2[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H32N4O5
reactant | methoxy-ethanol | 150 ml | COC(C)O | C3H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | acetic acid | 6.4 ml | C(C)(=O)O | C2H4O2
product | 6-amino-1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridin-4-one | 3.2 g | NC1=CC2=C(C(N1)=O)N=CN2[C@H]2[C@@H](O)[C@H](O)[C@H](O2)CO | C11H14N4O5
